Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
episodic sensory loss, concern for MS
 
Major Surgical or Invasive Procedure:
N/a 

 
History of Present Illness:
___ year old woman with history of congenital albinism,
baseline nystagmus and strabismus, sickle cell trait who 
presents
with a 5 day history of generalized malaise in setting of
episodic parasthesias, and intermittent blurry vision associated
with headache.

Patient reports she was in her usual state of health until 6 
days
prior to admission, when she experienced acute onset of right 
leg
numbness/tingling.  She woke up with this sensation. The
parasthesias were present throughout the entire right leg
(anteriorly and posteriorly) extending from the hip down to the
feet. Later on the day of onset, patient reports her right leg
suddenly "gave out" while walking to the bus station, prompting
her to fall forward. She was able to break her fall with her
hands. No LOC, no head trauma.  The leg parasthesias resolved on
that same day without any intervention. 

The following day (5 days prior to admission), patient began
feeling "groggy" with generalized malaise.  She had associated
dizziness, described as a lightheadedness sensation that is
constant. Denies any associated vertigo sensation,
nausea/vomiting, tinnitus and hearing loss.  

Patient has a history of chronic tension headache, for which she
takes over the counter Ibuprofen or Aspirin once or twice a 
week.
Over this past week, her headaches have been present every day,
mild in severity, similar in character to her baseline (stabbing
pain over right face). At times, this is associated with
bilateral blurry vision when her headaches are at the worst
severity. But currently patient denies visual changes, diplopia,
and focal weakness. 

She felt that her overall energy level was lower than usual. She
reports normally being an active person, but would frequently 
nap
during the day due to her malaise.  While she is normally alert
at work, she caught herself taking  brief naps at work. She had
been only getting 4 hours of sleep at night. 

She reports recent stressor--she suspects that her longtime
partner is not being faithful to her. This has been a source of
stress over last week. Denies depressed mood and anxiety.  

On neuro ROS, the pt reports generalized malaise and 
intermittent
right hand numbness for past two days(not currently). Currently
denies headache, loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, vertigo, tinnitus or hearing difficulty.
Denies difficulties producing or comprehending speech.  Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
-sickle cell trait
-Congenital albinism (present on both sides of the family)
-baseline strabismus and bilateral nystagmus per report of
patient
-h/o gestational HTN 
 
Social History:
___
Family History:
Mother with thyroid disease. Both maternal and
paternal grandfathers with stroke in their ___. Family history 
of
congenital albinism. Otherwise denies history of MS, epilepsy,
developmental disorders. 
 
Physical Exam:
Vitals: T: 97.3F  P: 59-68  R: 16  BP: ___  SaO2: 100%
RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, +strabismus and nystagmus bilaterally on primary
gaze, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: breathing non labored 
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI: Strabismus present.  PERRL 3 to 2mm and brisk. 
Right beating nystagmus on primary gaze. On EOM testing, EOMI,
with nystagmus present on all eye movements, in the direction of
movement (i.e. right beating nystagmus on right lateral gaze;
upbeating nystagmus on vertical gaze).  Normal saccades. VFF to
confrontation. Visual acuity ___ bilaterally. Fundoscopic exam
limited due to nystagmus, but I did not note any papilledema,
exudates, or hemorrhages. Normal red desaturation testing. 
V: Facial sensation intact to light touch, vibration and 
pinprick
bilaterally. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, vibratory sense,
proprioception throughout. Bilateral extremities, groin and back
all examined.  No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2+ 2+   2+   3*  2+
R  2+ 2+   2+   3*  2+
*crossed adductor response present 
Toes were upgoing bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge Exam: Unchanged from above 
 
Pertinent Results:
___ 06:24AM BLOOD WBC-5.1 RBC-4.26 Hgb-11.4 Hct-35.6 MCV-84 
MCH-26.8 MCHC-32.0 RDW-13.0 RDWSD-39.3 Plt ___
___ 01:15PM BLOOD WBC-4.9 RBC-4.16 Hgb-11.4 Hct-35.0 MCV-84 
MCH-27.4 MCHC-32.6 RDW-13.0 RDWSD-39.7 Plt ___
___ 10:05AM BLOOD WBC-4.3 RBC-4.42 Hgb-11.9 Hct-37.3 MCV-84 
MCH-26.9 MCHC-31.9* RDW-12.8 RDWSD-39.4 Plt ___
___ 01:15PM BLOOD Neuts-39.6 ___ Monos-12.4 Eos-1.6 
Baso-0.6 Im ___ AbsNeut-1.92 AbsLymp-2.21 AbsMono-0.60 
AbsEos-0.08 AbsBaso-0.03
___ 06:24AM BLOOD ___ PTT-30.2 ___
___ 06:24AM BLOOD Glucose-90 UreaN-11 Creat-0.9 Na-140 
K-4.0 Cl-105 HCO3-25 AnGap-14
___ 01:15PM BLOOD Glucose-90 UreaN-7 Creat-0.9 Na-139 K-4.2 
Cl-103 HCO3-26 AnGap-14
___ 10:05AM BLOOD Glucose-105* UreaN-7 Creat-1.0 Na-138 
K-4.1 Cl-101 HCO3-27 AnGap-14
___ 01:15PM BLOOD ALT-16 AST-20 AlkPhos-70 TotBili-0.5
___ 06:24AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.8
___ 10:05AM BLOOD Calcium-9.4 Phos-3.1 Mg-1.9
___ 01:15PM BLOOD VitB12-306 Folate-11.8
___ 01:15PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative HAV Ab-Negative
___ 01:15PM BLOOD HIV Ab-Negative
___ 01:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:15PM BLOOD HCV Ab-Negative
___ 10:05AM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 10:05AM URINE RBC-5* WBC-105* Bacteri-FEW Yeast-NONE 
Epi-15
___ 10:05AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

MRI Brain ___
1. While 3 mm descent of the cerebellar tonsils into the foramen 
magnum does not meet measurement criteria for a Chiari 1 
malformation, a functional Chiari 
1 malformation appears present, with obliteration of CSF in the 
foramen 
magnum, and with a small syrinx in the cervical spinal cord at 
the level of C2 which is better assessed on the preceding spine 
MRI. 
2. No evidence for intracranial demyelination, mass, or abnormal 
meningeal 
enhancement. 

MRI C/T Spine ___
1. No evidence for demyelinating disease in the thoracic spine.  
Small disc herniation at T1-T2 does not contact the spinal cord. 
 No spinal canal narrowing elsewhere in the thoracic spine. 
2. No abnormal contrast enhancement in the cervical spine. 
3. Chiari 1 malformation is again demonstrated.  The associated 
small syrinx in the spinal cord at the level of C2 is better 
demonstrated on the preceding cervical spine MRI without 
contrast.  Cervical degenerative disease is also better 
demonstrated on the preceding cervical spine MRI without 
contrast. 

 
Brief Hospital Course:
___ year old woman with history of congenital albinism, baseline 
nystagmus and strabismus, sickle cell trait who presents with a 
5 day history of generalized malaise in setting of poor sleep 
and extreme life stressors (she is concerned that her partner is 
being unfaithful). She also describes a history of headaches as 
well as occasional episodes of episodic paresthesias with a 
single episode of leg weakness. MRI of her brain and spine 
showed evidence of a chiari malformation as well as a syrinx 
which are likely chronic possibly since birth. There was no 
evidence of a demyelinating process. She did have a UA with W105 
Bact few Epi 15 Leuk Lg Bld Mod Nitr Neg but she denied any 
symptoms of urinary hesitancy, frequency or dysuria. Urine 
culture was negative. An infectious, metabolic, and toxic workup 
was negative. It was thought that her fatigue may be secondary 
to her poor sleep (<4 hours a night) as well as her current life 
stressors (concern about the state of her current relationship). 
As workup was negative, she was discharged home in stable 
condition with instructions to call to make a follow up 
appointment with neurology for evaluation of her chronic 
headaches and strabismus as well as long term surveillance and 
management recommendations of the chiari and syrinx.
 
Medications on Admission:
Denies
 
Discharge Medications:
Denies
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Generalized Fatigue
Episodic right hand and leg parasthesias 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with generalized fatigue as well as a 
history of sensory changes of your right leg and hands.  We did 
a number of tests looking for infections and electrolyte 
abnormalities which all returned normal. We also did an MRI of 
your spine and head, which did not reveal any lesions that were 
concerning for Multiple Sclerosis or other similar conditions 
although there were some findings including a chiari and syrinx 
which warrant follow up with a neurologist.  We believe these 
findings are old (likely present since birth) and are not at all 
responsible for your current symptoms. At this time, we feel it 
is safe for you to return home and to follow up closely with 
Neurology after discharge.

It was a pleasure taking care of you.

Sincerely,
Your ___ care team 
 
Followup Instructions:
___